US07981903B2
In a pressure vessel was placed 5-[3-(methyloxy)-4-nitrophenyl]-1-propyl-1,2,3,6-tetrahydropyridine (Intermediate B11, 4.1 g, 15.0 mmol) in Ethyl acetate (100 mL). The solution was bubbled with nitrogen for 15 min before the addition of 10% Pd/C (0.5 g). The reaction was stirred at RT for 12 h under 60 psi of H2. After releasing H2 pressure, the mixture was filtered through celite, and the filtrate was concentrated and purified by silica gel chromatography to afford 2-(methyloxy)-4-(1-propyl-3-piperidinyl)aniline (3.5 g, 96% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.82 (t, J=7.3 Hz, 3 H), 1.27-1.45 (m, 3 H), 1.45-1.58 (m, 1 H), 1.61-1.69 (m, 1 H), 1.69-1.77 (m, 1 H), 1.77-1.89 (m, 2 H), 2.16-2.26 (m, 2 H), 2.50-2.58 (m, 1 H), 2.75-2.88 (m, 2 H), 3.72 (s, 3 H), 4.47 (s, 2 H), 6.52 (d, J=0.9 Hz, 2 H), 6.65 (s, 1 H).

reactant | 5-[3-(methyloxy)-4-nitrophenyl]-1-propyl-1,2,3,6-tetrahydropyridine | 15.0 mmol, 4.1 g | COC=1C=C(C=CC1[N+](=O)[O-])C1=CCCN(C1)CCC | C15H20N2O3
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(methyloxy)-4-(1-propyl-3-piperidinyl)aniline | 3.5 g, 96% yield | COC1=C(N)C=CC(=C1)C1CN(CCC1)CCC | C15H24N2O
